US07642361B2
5-Amino-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester
Using a method substantially in accordance with the method of example 5-amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester starting with the compound 5-azido-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester gives the title compound.

reactant | 5-amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)N | C17H18N2O2S
reactant | 5-azido-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)N=[N+]=[N-] | C14H9IN4O2S
product | 5-Amino-4-cyano-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)N | C14H11IN2O2S
